US07700628B2
D. Methyl 2-(1-tert-Butoxycarbonylpiperidin-4-yloxy)-4-(methoxymethoxy)benzoate
Methyl 2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-hydroxybenzoate (9.13 g, 26.0 mmol) was dissolved in DMF. Potassium carbonate (7.19 g, 52.0 mmol) was added, followed by methoxymethyl chloride (2.51 g, 31.2 mmol), and the reaction was stirred at room temperature under a drying tube for 24 h. An additional 1.2 eq of methoxymethyl chloride was added and the reaction stirred an additional 48 h. The DMF was removed in vacuo. The residue was dissolved in ethyl acetate, washed with water, dried, and the solvent was removed in vacuo to give 9.91 g (96.2%) of a viscous oil.

reactant | Methyl 2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-hydroxybenzoate | 26.0 mmol, 9.13 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)OC)C=CC(=C1)O | C18H25NO6
reactant | Potassium carbonate | 52.0 mmol, 7.19 g | C([O-])([O-])=O.[K+].[K+]
reactant | methoxymethyl chloride | 31.2 mmol, 2.51 g | COCCl | C2H5ClO
reactant | methoxymethyl chloride | 1.2 eq | COCCl | C2H5ClO
solvent | DMF | CN(C)C=O | C3H7NO
product | Methyl 2-(1-tert-Butoxycarbonylpiperidin-4-yloxy)-4-(methoxymethoxy)benzoate | 9.91 g, 96.2% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)OC)C=CC(=C1)OCOC | C20H29NO7
